US05661169
A) 4-Chloro-2-cyclohexylamino-1-nitrobenzene
A mixture consisting of 19.4 g of 2,4-dichloro-1-nitrobenzene, 40 g of cyclohexylamine and 100 ml of 2-ethoxyethanol is maintained at reflux for 12 hours.

reactant | 2,4-dichloro-1-nitrobenzene | 19.4 g | ClC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | cyclohexylamine | 40 g | C1(CCCCC1)N | C6H13N
solvent | 2-ethoxyethanol | 100 ml | C(C)OCCO | C4H10O2
product | 4-Chloro-2-cyclohexylamino-1-nitrobenzene | ClC1=CC(=C(C=C1)[N+](=O)[O-])NC1CCCCC1 | C12H15ClN2O2
